US04581366
(±)-1'-(4-Bromo-2-fluorobenzyl)-7'-chloro-spiro[imidazoline-4,3'-indoline]-2,2',5'-trione (64.4 g.) was dissolved in a 0.253 M solution of (-)-N,N,N-trimethyl-(1-phenylethyl)ammonium hydroxide in methanol (581 ml.). The solution was filtered and the filtrate was evaporated. The residue was dissolved in 2-methoxyethanol (132 ml.). The solution was warmed to 70° C. and then diluted with 1,2-dimethoxyethane (440 ml.) previously warmed to 70° C. The clear solution was stored at 0° C. for 48 hours and the crystals of the quaternary ammonium salt were collected by filtration [27 g.; [α]D23 +21.1°, c. 0.93, MeOH)]. This product was recrystallised from 2-methoxyethanol (55.3 ml.) and 1,2-dimethoxyethane (184 ml.) to give crystals [20 g.; [α]D23 +22° (c.1.11, MeOH)]. A third recrystallisation gave crystals [15.8 g.; [α]D23 +21.9° (c.1.12 MeOH)]. The crystalline salt (15.8 g.) thus obtained was dissolved in methanol (50 ml.) and treated with 0.25 M aqueous hydrochloric acid (105 ml.). The solution was chilled at 0° C. overnight and the solid removed by filtration, washed with water and dried over phosphorus pentoxide under vacuum to give the (+)-enantiomer of 1'-[4-bromo-2-fluorobenzyl]-7'-chloro-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione (9.1 g.), m.p. 260°-262° C., [α]D23 +17.9° (c. 0.89, MeOH).

reactant | (±)-1'-(4-Bromo-2-fluorobenzyl)-7'-chloro-spiro[imidazoline-4,3'-indoline]-2,2',5'-trione | 64.4 g | BrC1=CC(=C(CN2C(C3(C=4CC(C=C(C24)Cl)=O)NC(NC3)=O)=O)C=C1)F | C17H12BrClFN3O3
reactant | hydrochloric acid | 0.25 M, 105 ml | Cl | ClH
reactant | (-)-N,N,N-trimethyl-(1-phenylethyl)ammonium hydroxide | [OH-].C[N+](C)(C)C(C)C1=CC=CC=C1
solvent | methanol | 581 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 1'-[4-bromo-2-fluorobenzyl]-7'-chloro-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione | 9.1 g | BrC1=CC(=C(CN2C(C3(C4=CC=CC(=C24)Cl)NC(NC3=O)=O)=O)C=C1)F | C17H10BrClFN3O3
